US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane (0.15 g, 0.42 mmol) and 4-iodonitrophenol (0.11 g, 0.42 mmol) in piperidine (2 mL) under an argon atmosphere were added tetrakis(triphenylphosphine)palladium(0) (0.02 g, 4%), copper(I) iodide (0.005 g, 6%) and a small crystal of triphenylphosphine. After heating at 80° C. for 0.5 h, water and 1N hydrochloric acid were added. The mixture was extracted three times with dichloromethane, the extract was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 2:8 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(4-nitrophenylethynyl)cyclohexane as a red-orange wax. mp 58°-59° C. 1H-NMR (400 MHz, CDCl3) δ 8.18 (d, J=8.7 Hz, 2H), 7.58 (d, J=8.7 Hz, 2H), 7.16 (d, J=2.5 Hz, 1H), 7.12 (dd, J=8.4, 2.5 Hz, 1H), 6.86 (d, J=8.4 Hz, 1H), 4.80 (m, 1H), 4.01 (s, 4H), 3.85 (s, 3H), 1.8-2.3 (m, 14H), 1.6 (m, 2H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane | 0.42 mmol, 0.15 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#C | C22H28O4
reactant | 4-iodonitrophenol | 0.42 mmol, 0.11 g | IC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4INO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.005 g | [Cu]I
solvent | water | O | H2O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(4-nitrophenylethynyl)cyclohexane | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC=C(C=C2)[N+](=O)[O-] | C28H31NO6
